US07737166B2
4-Cyano-7-fluoro-N,5-dimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide (I-113)
Under nitrogen atmosphere, trimethylaluminium (1.03 M n-hexane solution, 1.80 ml, 1.85 mmol) was dropwise added to a dichloromethane (2 ml) solution of methylamine hydrochloride (125 mg, 1.85 mmol) at room temperature, and stirred for 40 minutes. Subsequently, a dichloromethane (2 ml) solution of ethyl-4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-2-carboxylate (I-111) (200 mg, 617 μl) was dropwise added and stirred for 63 hours. After the reaction, aqueous 1 N hydrochloric acid solution was added to the reaction liquid with cooling with ice, followed by stirring at room temperature. The reaction liquid was extracted with chloroform. Next, the obtained organic layers were combined, dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography, and the eluate with dichloromethane/methanol (100:1, v/v) gave the entitled compound (122 mg, 64%) as a pale green solid.

reactant | trimethylaluminium | 1.85 mmol, 1.03 M, 1.80 ml | C[Al](C)C
reactant | methylamine hydrochloride | 1.85 mmol, 125 mg | Cl.CN
reactant | ethyl-4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-2-carboxylate | 617 μl, 200 mg | C(C)OC(=O)C=1OC2=C(N1)C(=C(C(=C2F)C2=CC=CC=C2)C)C#N | C18H13FN2O3
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 4-Cyano-7-fluoro-N,5-dimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide | 122 mg, 64% | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)NC)F)C2=CC=CC=C2)C | C17H12FN3O2
